US07846960B2
2-Isopropoxy-4-methyl-benzoic Acid Methyl Ester
Disopropyl azodicarboxylate (8.7 mL, 44 mmol) is added to a stirred solution of methyl 2-hydroxy-4-methylbenzoate (4.85 g, 29.2 mmol), isopropanol (3.3 mL, 44 mmol), triphenylphosphene (11.5 g, 43.8 mmol) and THF (50 mL) at room temperature. The exothermic reaction is cooled in an ice bath and is allowed to stir overnight at room temperature. The mixture is diluted with ethyl acetate and water, and the organic phase is washed with brine and dried over MgSO4. The crude residue is purified by flash chromatography (20 to 40% EtOAc/heptane) to afford the title compound (4.95 g, 81%) as an oil. ES/MS m/e 209.3 (M+1).

reactant | azodicarboxylate | 44 mmol, 8.7 mL | N(=NC(=O)[O-])C(=O)[O-]
reactant | methyl 2-hydroxy-4-methylbenzoate | 29.2 mmol, 4.85 g | OC1=C(C(=O)OC)C=CC(=C1)C | C9H10O3
reactant | isopropanol | 44 mmol, 3.3 mL | C(C)(C)O | C3H8O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-Isopropoxy-4-methyl-benzoic Acid Methyl Ester | 4.95 g, 81% | COC(C1=C(C=C(C=C1)C)OC(C)C)=O | C12H16O3
